US04567186
C-1. 6-[2-(Dimethylamino)ethenyl]-5-(2-furanylcarbonyl)-2(1H)-pyridinone--A mixture containing 30.5 g of 5-(2-furanylcarbonyl)-6-methyl-2(1H)-pyridinone, 400 ml of p-dioxane and 25 ml of dimethylformamide dimethyl acetal was heated under reflux for 6 hours and then allowed to cool. The separated crystalline product was collected, washed with isopropyl alcohol and dried in a vacuum oven at 80°-85° C. to yield 28.4 g of 6-[2-(dimethylamino)ethenyl]-5-(2-furanylcarbonyl)-2(1H)-pyridinone, m.p. 238°-240° C. with decomposition. The mother liquor on concentration yielded another 5.6 g of product.

reactant | 5-(2-furanylcarbonyl)-6-methyl-2(1H)-pyridinone | 30.5 g | O1C(=CC=C1)C(=O)C=1C=CC(NC1C)=O | C11H9NO3
reactant | dimethylformamide dimethyl acetal | 25 ml | COC(N(C)C)OC | C5H13NO2
solvent | p-dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 6-[2-(dimethylamino)ethenyl]-5-(2-furanylcarbonyl)-2(1H)-pyridinone | 28.4 g | CN(C=CC1=C(C=CC(N1)=O)C(=O)C=1OC=CC1)C | C14H14N2O3
